US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-1,3-thiazol-2-ylbenzamide
DIPEA (0.129 mL) was added to a suspension of 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid (168 mg), HATU (190 mg) and 2-aminothiazole (40 mg) in DMF (2 mL) and the mixture stirred at RT for 16 hours. Water (30 mL) was added and the mixture extracted with ethyl acetate (3×20 mL). The combined organic extracts were washed with brine, dried (MgSO4), and evaporated to a residue which was chromatographed on silica, eluting with 50-100% ethyl acetate in isohexane, to give the desired compound (75 mg).

reactant | DIPEA | 0.129 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | 168 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)O)C=C(C1)O[C@H](COC)C)Cl | C20H21ClN2O6
reactant | HATU | 190 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminothiazole | 40 mg | NC=1SC=CN1 | C3H4N2S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Water | 30 mL | O | H2O
product | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-1,3-thiazol-2-ylbenzamide | 75 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)O[C@H](COC)C)Cl | C23H23ClN4O5S
